US07858652B2
To a stirred solution of [5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl]-methanol (339 mg) at room temperature in dichloromethane (15 ml) under an argon atmosphere was added MnO2 (1.20 g). The black suspension was heated to reflux and stirring at that temperature was continued for 18 hours, then was cooled to room temperature and filtered. The resulting cake was washed with dichloromethane. The filtrate was concentrated to leave 5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbaldehyde (262 mg) as light yellow viscous oil. The crude product was used in the next reaction step without further purification. MS (EI): 171.1 ([M-Si(Me)3]).

reactant | [5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl]-methanol | 339 mg | FC1=C(N=CN1COCC[Si](C)(C)C)CO | C10H19FN2O2Si
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | MnO2 | 1.20 g | O=[Mn]=O
product | 5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbaldehyde | 262 mg | FC1=C(N=CN1COCC[Si](C)(C)C)C=O | C10H17FN2O2Si
